US04654347
N-[3-(3-Benzoylpyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-2-bromo-N-methylacetamide
Three grams of [7-[3-(methylamino)phenyl]pyrazolo[1,5-a]pyrimidin-3-yl]phenyl methanone was dissolved in 150 ml of tetrahydrofuran. The solution was stirred as 2 ml of diisopropylethylamine, and then 2.3 g of bromoacetyl bromide were added. A precipitate formed immediately. The mixture was stirred at room temperature for 18 hours. A 150 ml portion of water was then added, the mixture heated until solution occurred, and then cooled at -10° C. A precipitate of the desired compound was obtained. It was collected, washed with water, and dried at 60° C. in vacuo giving 1.7 g, mp 175°-177° C.

reactant | [7-[3-(methylamino)phenyl]pyrazolo[1,5-a]pyrimidin-3-yl]phenyl methanone | Three grams | CNC=1C=C(C=CC1)C1=CC=NC=2N1N=CC2C(=O)C2=CC=CC=C2 | C20H16N4O
reactant | diisopropylethylamine | 2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromoacetyl bromide | 2.3 g | BrCC(=O)Br | C2H2Br2O
reactant | water | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-[3-(3-Benzoylpyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-2-bromo-N-methylacetamide | C(C1=CC=CC=C1)(=O)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)N(C(CBr)=O)C | C22H17BrN4O2
